US04824975
The procedure as in Example 10 is carried, but at an oxidation temperature of 50° C. After 2 hours, 0.9 mol of oxygen has been taken up per mol of 3-ethyl-3-hydroxymethyl-oxetane. After working up, 3-ethyl-oxetane-3-carboxylic acid is obtained in a yield of 86.2% of theory.

reactant | oxygen | 0.9 mol | O=O | O2
reactant | 3-ethyl-3-hydroxymethyl-oxetane | C(C)C1(COC1)CO | C6H12O2
product | 3-ethyl-oxetane-3-carboxylic acid | yield of 86.2% | C(C)C1(COC1)C(=O)O | C6H10O3
